US08580841B2
Step F: Preparation of Ethyl 2-(7-(3-Cyano-4-cyclohexylbenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate.
To a solution of ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (166.0 mg, 0.641 mmol) and 5-(chloromethyl)-2-cyclohexylbenzonitrile (147.0 mg, 0.629 mmol) in N,N-dimethylformamide (15 mL) was added cesium carbonate (246.0 mg, 0.755 mmol). The mixture was stirred at room temperature for 41 h. The mixture was diluted with ethyl acetate, filtered through Celite®, concentrated under reduced pressure and purified by silica gel column chromatography to provide the title compound as a yellow foam (185.3 mg). LCMS m/z=457.5 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.18-1.28 (m, 1H), 1.30 (t, J=7.20 Hz, 3H), 1.41-1.52 (m, 4H), 1.79 (dd, J=12.82, 1.33 Hz, 1H), 1.85-1.93 (m, 4H), 2.06-2.15 (m, 1H), 2.50 (dd, J=16.80, 11.24 Hz, 1H), 2.68-2.86 (m, 4H), 2.94-3.04 (m, 1H), 3.49-3.61 (m, 1H), 4.16-4.25 (m, 2H), 5.06 (s, 2H), 6.82 (dd, J=8.78, 2.46 Hz, 1H), 6.97 (d, J=2.53 Hz, 1H), 7.21 (d, J=8.72 Hz, 1H), 7.37 (d, J=8.21 Hz, 1H), 7.62 (dd, J=8.15, 1.71 Hz, 1H), 7.71 (d, J=1.52 Hz, 1H), 8.47 (bs, 1H).

reactant | ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.641 mmol, 166.0 mg | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
reactant | 5-(chloromethyl)-2-cyclohexylbenzonitrile | 0.629 mmol, 147.0 mg | ClCC=1C=CC(=C(C#N)C1)C1CCCCC1 | C14H16ClN
reactant | cesium carbonate | 0.755 mmol, 246.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(7-(3-Cyano-4-cyclohexylbenzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 185.3 mg | C(#N)C=1C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=CC1C1CCCCC1 | C29H32N2O3
